US09216980B2
6-(2-Aminopyrimidin-5-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-chloro-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (74.4 mg, 0.197 mmol), 2-aminopyrimidine-5-boronic acid, pinacol ester (45.8 mg, 0.207 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with dichloromethane (1:1) (8.1 mg, 9.87 umol, 5.0 mol %) in acetonitrile (0.74 mL) and 1M aqueous potassium carbonate solution (0.74 mL) was heated under microwave irradiation (140° C.) for 30 minutes. Further portions of the boronate ester (1.0 eq) and catalyst (5 mol %), acetonitrile (0.74 mL), and 1M aqueous potassium carbonate solution (0.74 mL) were added and the mixture heated under microwave irradiation (140° C.) for an additional 30 minutes. The mixture was concentrated in vacuo and the residue dissolved in water and DMF, and acidified with 10% (v/v) sulfuric acid. The resultant solid was removed by filtration and the filtrate concentrated in vacuo. The resultant residue was dissolved in DMSO and purified by preparative HPLC [0-30% MeCN/water modified with 0.1% formic acid] to afford an orange fluffy solid (5.1 mg, 14%). LCMS (Method E): RT=5.45 min, M+H+=436.

reactant | 6-chloro-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.197 mmol, 74.4 mg | ClC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H21ClN4
reactant | 2-aminopyrimidine-5-boronic acid | NC1=NC=C(C=N1)B(O)O | C4H6BN3O2
reactant | dichloromethane | 9.87 umol, 8.1 mg | ClCCl | CH2Cl2
solvent | acetonitrile | 0.74 mL | C(C)#N | C2H3N
solvent | potassium carbonate | 1M, 0.74 mL | C([O-])([O-])=O.[K+].[K+]
solvent | potassium carbonate | 1M, 0.74 mL | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 0.74 mL | C(C)#N | C2H3N
product | 6-(2-Aminopyrimidin-5-yl)-3-(4-piperidin-1-ylmethylphenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 5.1 mg, 14% | NC1=NC=C(C=N1)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C26H25N7
